US08048909B2
N-Methyl-1-[5-phenyl-1-(3-thienylsulfonyl)-1H-pyrrol-3-yl]methanamine hydrochloride
Using tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate (250 mg), sodium hydride (60% in oil, 140 mg) and thiophene-3-sulfonyl chloride (340 mg), a procedure as in Example 36 was performed to give the title compound as pale-purple crystals (yield 114 mg, 35%).

reactant | tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate | 250 mg | CN(C(OC(C)(C)C)=O)CC1=CNC(=C1)C1=CC=CC=C1 | C17H22N2O2
reactant | sodium hydride | 140 mg | [H-].[Na+]
reactant | thiophene-3-sulfonyl chloride | 340 mg | S1C=C(C=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | N-Methyl-1-[5-phenyl-1-(3-thienylsulfonyl)-1H-pyrrol-3-yl]methanamine hydrochloride | yield 114 mg, 35% | Cl.CNCC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=CSC=C1 | InChI=1S/C16H16N2O2S2.ClH/c1-17-10-13-9-16(14-5-3-2-4-6-14)18(11-13)22(19,20)15-7-8-21-12-15;/h2-9,11-12,17H,10H2,1H3;1H
